US09334464B2
A Grignard reagent prepared from 1-bromo-4-methylcyclohexane (20.0 g, 0.11 mol) and magnesium (2.9 g, 0.12 mol) in THF (110 ml) was added dropwise (during a period of 80 min) to a mechanically stirred solution of diethyl oxalate (16.0 g, 0.11 mol) in THF (250 ml) at −78° C. The mixture was left stirring for 2 h and then slowly warmed up to 0° C. A saturated solution of NH4Cl (100 ml) was added and the formation of a white precipitate was observed. Extraction with diethyl ether (2×), washing with water, drying (Na2SO4) and concentrating afforded 22.6 g of the crude compound. Kugelrohr distillation of 10 g (100° C./2 mbar) gave 7.74 g (76%) of ethyl 2-(4-methylcyclohexyl)-2-oxoacetate as a slightly yellow oil (mixture of cis/trans isomers ca. 1:3).

reactant | 1-bromo-4-methylcyclohexane | 0.11 mol, 20.0 g | BrC1CCC(CC1)C | C7H13Br
reactant | magnesium | 0.12 mol, 2.9 g | [Mg] | Mg
reactant | diethyl oxalate | 0.11 mol, 16.0 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | NH4Cl | 100 ml | [NH4+].[Cl-]
solvent | THF | 110 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | ethyl 2-(4-methylcyclohexyl)-2-oxoacetate | 7.74 g, 76% | CC1CCC(CC1)C(C(=O)OCC)=O | C11H18O3
